US06423710B1
3-[3-(3-Cyclopropylmethoxy-4-methoxyphenyl)-2-methyl-E-acryloyl]-4-(R)-phenyloxazolidin-2-one
4-(R)-Phenyloxazolidin-2-one (33.0 g, 0.202 mol) was dissolved in THF (1 L) and cooled to −78° C. n-Butyl lithium (2.5 M in hexanes, 79.5 mL, 0.198 mol) was added, and the resulting reaction mixture was stirred for 20 minutes. A solution of Intermediate 62 (65.1 g, 0.213 mol) in THF (200 mL) was added dropwise over 15 minutes. The reaction mixture was stirred for 1 hour at −78° C., then warmed to 0° C., slowly. The reaction mixture became thick with beige solids. The mixture was neutralized at 0° C. with saturated NH4Cl (600 mL) and water (300 mL). The solution was warmed to 22° C. quickly and poured into CHCl3 (2400 mL). After shaking and separation, the organic layer was washed with water (1 L), saturated NaCl (1 L), dried over Na2SO4, and concentrated in vacuo to a pale orange solid (94.4 g).

reactant | 4-(R)-Phenyloxazolidin-2-one | 0.202 mol, 33.0 g | C1(=CC=CC=C1)[C@H]1NC(OC1)=O | C9H9NO2
reactant | n-Butyl lithium | 0.198 mol, 2.5 M, 79.5 mL | C(CCC)[Li]
reactant | NH4Cl | 600 mL | [NH4+].[Cl-]
reactant | water | 300 mL | O | H2O
reactant | THF | 1 L | C1CCOC1 | C4H8O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | 2400 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-[3-(3-Cyclopropylmethoxy-4-methoxyphenyl)-2-methyl-E-acryloyl]-4-(R)-phenyloxazolidin-2-one | C1(CC1)COC=1C=C(C=CC1OC)/C=C(/C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)\C | C24H25NO5
